US06156774
2-[(5-Benzyl)furan-2-yl]-N-[2-(mercaptomethyl)-4-phenylbutyryl]glycine
The title compound was prepared from 2-[(5-benzyl)furan-2-yl]-N-[2-(acetylthiomethyl)-4-phenylbutyryl]glycine ethyl ester (Description 43) by the procedure described in Example 24. vmax (CHCl3) 3430, 3294, 1727, 1662 cm-1. δ (CD3SOCD3) 1.70-1.80 (2H, m), 2.40-2.74 (5H, m), 3.90 and 3.94 (2H, two s's), 5.30-5.35 (1H, m), 5.99-6.02 (1H, m), 6.22 and 6.26 (1H, two d's, J 4.10 Hz), 7.09-7.32 (10H, m), 8.48 (1H, d, J 6.98 Hz), m/z 423 (M+). [Found (HRMS): 423.1503. Calc for C24H25NO4S; 423.1504].

reactant | 2-[(5-benzyl)furan-2-yl]-N-[2-(acetylthiomethyl)-4-phenylbutyryl]glycine ethyl ester | C(C)OC(C(NC(C(CCC1=CC=CC=C1)CSC(C)=O)=O)C=1OC(=CC1)CC1=CC=CC=C1)=O | C28H31NO5S
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-[(5-Benzyl)furan-2-yl]-N-[2-(mercaptomethyl)-4-phenylbutyryl]glycine | C(C1=CC=CC=C1)C1=CC=C(O1)C(NC(C(CCC1=CC=CC=C1)CS)=O)C(=O)O | C24H25NO4S
